US04062952
C. 4-isopropyl-2-nitroaniline
20.0 G. (0.148 moles) of 4-isopropylaniline is added with stirring to 75 ml. of acetic anhydride at from 20° to 45° C. The reaction mixture is stirred at 35° C. for 1 hour. 11 Ml. of fuming nitric acid (specific gravity 1.5) is added at a temperature of from 25° to 35° C. over a period of 20 minutes and stirred for 3 hours. The acid mixture is added to a mixture of 180 ml. of water, 45 ml. of concentrated sulfuric acid and 142 ml. of ethanol with stirring. The reaction mixture is stirred overnight at room temperature, refluxed for 2 hours, neutralized with saturated sodium carbonate solution and extracted with chloroform. The chloroform layer is dried and evaporated in vacuo affording 35 g. of a dark orange oil which is used as is in the next step.

reactant | 4-isopropylaniline | 0.148 moles | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-isopropyl-2-nitroaniline | C(C)(C)C1=CC(=C(N)C=C1)[N+](=O)[O-] | C9H12N2O2
